US08912124B2
b) Ethyl(1-cyanocyclopropyl)(4-fluorophenyl)phosphinate
0.470 g of ethyl(cyanomethyl)(4-fluorophenyl)phosphinate was initially charged in 20 ml of DMSO, and 0.572 g (4.138 mmol) of potassium carbonate and then 0.388 g of 1,2-dibromoethane were added. The mixture was stirred at room temperature for 4 h and then at 50° C. for 2 h. The reaction mixture was concentrated, taken up in dichloromethane and washed with H2O.

reactant | ethyl(cyanomethyl)(4-fluorophenyl)phosphinate | 0.470 g | C(C)OP(=O)(C1=CC=C(C=C1)F)CC#N | C10H11FNO2P
reactant | potassium carbonate | 4.138 mmol, 0.572 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 0.388 g | BrCCBr | C2H4Br2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | Ethyl(1-cyanocyclopropyl)(4-fluorophenyl)phosphinate | C(C)OP(=O)(C1=CC=C(C=C1)F)C1(CC1)C#N | C12H13FNO2P
